US07855297B2
By the reaction and treatment in the same manner as in Example 106 using N-[(4-dimethylaminophenyl)methyl]-6-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.66 g) and 2-bromoethanol (0.16 mL) as starting materials, N-[(4-dimethylaminophenyl)methyl]-6-(2-hydroxyethoxy)-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.28 g) was obtained. melting point: 141.4° C.

reactant | N-[(4-dimethylaminophenyl)methyl]-6-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.66 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC(=CC=C12)O)C1=CC=C(C=C1)C(C)C)C | C29H34N2O2
reactant | 2-bromoethanol | 0.16 mL | BrCCO | C2H5BrO
product | N-[(4-dimethylaminophenyl)methyl]-6-(2-hydroxyethoxy)-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.28 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC(=CC=C12)OCCO)C1=CC=C(C=C1)C(C)C)C | C31H38N2O3
